US07122548B2
(4-Hydroxy-phenyl)-acetic acid hydrazide
A mixture of 5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-ylamine 10.182 g (52.7 mmol), water 80 mL and anhydrous hydrazine 20 mL was refluxed under nitrogen on an oil bath (190-200 ° C.) for 23 hours. The mixture was cooled and allowed to crystallize at R.T. under nitrogen overnight. The precipitated product was collected by filtration, washed with ice-cold water (10 mL) and dried on high vacuum. The crude product was re-crystallized from water 60 mL (reflux under nitrogen, than to +4° C. in a refrigerator overnight). The product was filtered, washed with ice-cold water and dried on high vacuum. Y=6.210 g (56.5%) of a large white crystals. 1H-NMR(DMSO-d6, 400 MHz): 7.267 (app d, J=8.6 Hz, J=5.5 Hz, 2H), 7.097 (app t, J=9.0 Hz, 2H), 5.509 (br s, 2H), 5.339 (s, 2H), 3.884 (s, 2H); 19F-NMR(DMSO-d6, 376.5 MHz): −117.14 (m, 1F).

reactant | 5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-ylamine | 52.7 mmol, 10.182 g | FC1=CC=C(CC2=NN=C(O2)N)C=C1 | C9H8FN3O
reactant | hydrazine | 20 mL | NN | H4N2
reactant | water | 80 mL | O | H2O
product | (4-Hydroxy-phenyl)-acetic acid hydrazide | OC1=CC=C(C=C1)CC(=O)NN | C8H10N2O2
